US07834063B2
C. 4-[(Cyclopropylmethyl)(2-{[4-(1,1-dimethylethyl)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile
To a slurry of polymer-supported triphenylphosphine (0.23 g, ca. 3 mmol/g, ca. 0.70 mmol) in CH2Cl2 was added 4-[(cyclopropylmethyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile (0.100 g, 0.35 mmol) and 4-tert-butylphenol (0.105 g, 0.70 mmol). The mixture was shaken for 10 min, a solution of DBAD (0.121 g, 0.525 mmol) in CH2Cl2 (0.5 mL) was added, and shaking was continued overnight. Solids were removed by filtration and the filtrate was shaken with polymer-supported carbonate (0.50 g, ca. 2.9 mmol/g, ca. 1.5 mmol CO32−) for 4 h. Solids were removed by filtration, the filtrate was treated with TFA (1 mL) for 1 h and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording 0.0847 g of the title compound as a colorless gum: 1H NMR (300 MHz, CDCl3) δ 7.58 (d, J=8.8 Hz, 1H), 7.29 (app. d, J=8.8 Hz, 2H), 7.11 (d, J=2.4 Hz, 1H), 6.90 (dd, J=8.8, 2.5 Hz, 1H), 6.78 (app. d, J=8.7 Hz, 2H), 4.14 (t, J=5.8 Hz, 2H), 3.89 (t, J=5.6 Hz, 2H), 3.39 (d, J=6.2 Hz, 2H), 1.29 (s, 9H), 1.14-0.99 (m, 1H), 0.69-0.59 (m, 2H), 0.36-0.27 (m, 2H); MS (APCI) m/z 417 (M+1).

reactant | triphenylphosphine | ca. 0.70 mmol, 0.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-[(cyclopropylmethyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.35 mmol, 0.100 g | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCO | C14H15F3N2O
reactant | 4-tert-butylphenol | 0.70 mmol, 0.105 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | DBAD | 0.525 mmol, 0.121 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | carbonate | ca. 1.5 mmol, 0.50 g | C([O-])([O-])=O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-[(Cyclopropylmethyl)(2-{[4-(1,1-dimethylethyl)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.0847 g | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=C(C=C1)C(C)(C)C | C24H27F3N2O
